US06017919
2-Methoxy-3-pentyloxyphthalic acid (155 mg, 0.55 mmol, 1 eq) and 2-(4-hydroxyphenyl)ethylamine (101.6 mg, 0.74 mmol, 1.4 eq) were dissolved in acetic acid (10 ml), and the solution was refluxed under heating for 2 hours. The mixture was cooled to room temperature and extracted twice with ethyl acetate (40 ml). The organic layers were combined, washed with a 1N aqueous hydrochloric acid solution (40 ml) and further with saturated brine (40 ml), and dried over anhydrous sodium sulfate. The drying agent was Eltered off, and the filtrate was concentrated under reduced pressure and purified by column chromatography on silica gel (n-hexane/ethyl acetate=4/1) to give 2-[2-(4-hydroxyphenyl)ethyl]-5-methoxy-4-pentyloxyisoindole-1,3-dione (67 mg, 31.8%).

reactant | 2-Methoxy-3-pentyloxyphthalic acid | 0.55 mmol, 155 mg, 1 eq | COC1(C(C(=O)O)C=CC=C1OCCCCC)C(=O)O | C14H20O6
reactant | 2-(4-hydroxyphenyl)ethylamine | 0.74 mmol, 101.6 mg, 1.4 eq | OC1=CC=C(C=C1)CCN | C8H11NO
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-[2-(4-hydroxyphenyl)ethyl]-5-methoxy-4-pentyloxyisoindole-1,3-dione | 67 mg, 31.8% | OC1=CC=C(C=C1)CCN1C(C2=CC=C(C(=C2C1=O)OCCCCC)OC)=O | C22H25NO5
